US04638088
Part B: Preparation of 3,5-dichloro-4-(2-phenylphenylmethoxy)aniline
A 500 milliliter rocking Parr hydrogenator was charged with a solution of 12 grams (0.032 moles) of 3,5-dichloro-4-(2-phenylphenylmethoxy) nitrobenzene prepared in Part A and 100 milliliters of toluene. To this solution was added 1.0 gram of a catalyst of 5% platinum on carbon and the reactor was sealed. The reactor was purged twice with nitrogen and then twice with hydrogen. Hydrogen was then introduced to a pressure of 26 psi and this pressure was maintained until the hydrogen up-take ceased, i.e., about 20 minutes. The material was removed from the reactor, filtered through celite and concentrated (toluene removed under vacuum) to give an oil. Crystallization from a hexane-ethyl acetate mixture (5:2 volume ratio) afforded 9.09 grams of an ivory powder having a melting point of 67.0° C.-69.0° C.

reactant | 3,5-dichloro-4-(2-phenylphenylmethoxy) nitrobenzene | 0.032 moles, 12 grams | ClC=1C=C(C=C(C1OCC1=C(C=CC=C1)C1=CC=CC=C1)Cl)[N+](=O)[O-] | C19H13Cl2NO3
catalyst | platinum on carbon | [Pt] | Pt
solvent | toluene | 100 milliliters | C1(=CC=CC=C1)C | C7H8
product | 3,5-dichloro-4-(2-phenylphenylmethoxy)aniline | 9.09 grams | ClC=1C=C(N)C=C(C1OCC1=C(C=CC=C1)C1=CC=CC=C1)Cl | C19H15Cl2NO
